US04544667
Step A: Preparation of 5-(2-Benzyloxyethyl)benzo[b]furan
The title compound is prepared by benzylation of 5-(2-hydroxyethyl)benzo[b]furan with benzyl bromide in the presence of sodium hydride.

reactant | 5-(2-hydroxyethyl)benzo[b]furan | OCCC1=CC2=C(OC=C2)C=C1 | C10H10O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | [H-].[Na+]
product | 5-(2-Benzyloxyethyl)benzo[b]furan | C(C1=CC=CC=C1)OCCC1=CC2=C(OC=C2)C=C1 | C17H16O2
